US07432378B2
5-Chloro-2-{3-chloro-4-[3-(4-methyl-[1,4]diazepan-1-yl)-propoxy]-phenyl}-6-methyl-1H-benzoimidazole
This compound was prepared by the method described in Example 1, using 3-chloro-4-[3-(4-methyl-[1,4]diazepan-1-yl)-propoxy]-benzaldehyde (61 mg, 0.20 mmol, 1.0 equiv), 4-chloro-5-methyl-benzene-1,2-diamine (31 mg, 0.20 mmol, 1.0 equiv), and Na2S2O5 (48 mg, 0.25 mmol, 1.3 equiv) in General Procedure 3. Purification by Method 2 afforded 7.1 mg (8%) of the title compound. MS (electrospray): mass calculated for C23H28Cl2N4O, 446.16; m/z found, 447.3 [M+H]+. 1H NMR (400 MHz, CD3OD): 7.96 (d, J=2.2 Hz, 1H), 7.83 (dd, J=8.6, 2.2 Hz, 1H), 7.45 (s, 1H), 7.34 (s, 1H), 7.10 (d, J=8.7 Hz, 1H), 4.08 (t, J=6.0 Hz, 2H), 2.76-2.64 (m, 10H), 2.36 (s, 3H), 2.30 (s, 3H), 1.96-1.88 (m, 2H), 1.80-1.73 (m, 2H).

reactant | 3-chloro-4-[3-(4-methyl-[1,4]diazepan-1-yl)-propoxy]-benzaldehyde | 0.20 mmol, 61 mg, 1.0 equiv | ClC=1C=C(C=O)C=CC1OCCCN1CCN(CCC1)C | C16H23ClN2O2
reactant | 4-chloro-5-methyl-benzene-1,2-diamine | 0.20 mmol, 31 mg, 1.0 equiv | ClC=1C=C(C(=CC1C)N)N | C7H9ClN2
product | 5-Chloro-2-{3-chloro-4-[3-(4-methyl-[1,4]diazepan-1-yl)-propoxy]-phenyl}-6-methyl-1H-benzoimidazole | 7.1 mg, 8% | ClC1=CC2=C(NC(=N2)C2=CC(=C(C=C2)OCCCN2CCN(CCC2)C)Cl)C=C1C | C23H28Cl2N4O
